US05283244
To a mixture of 5.6 g of 2-ethoxalylamino-5-fluoronitrobenzene and 170 ml of DMF was added 0.3 g of 10% Pd-C, and hydrogenation reaction was carried out at ordinary temperature and pressure. The reaction mixture was then filtered and concentrated under reduced pressure. The resulting residue was recrystallized from ethanol to provide 3.68 g (85%) of 7-fluoro-1-hydroxyquinoxaline-2,3-(1H,4H)-dione

reactant | 2-ethoxalylamino-5-fluoronitrobenzene | 5.6 g | C(=O)(C(=O)OCC)NC1=C(C=C(C=C1)F)[N+](=O)[O-] | C10H9FN2O5
catalyst | Pd-C | 0.3 g | [Pd] | Pd
solvent | DMF | 170 ml | CN(C)C=O | C3H7NO
product | 7-fluoro-1-hydroxyquinoxaline-2,3-(1H,4H)-dione | 3.68 g, 85% | FC1=CC=C2NC(C(N(C2=C1)O)=O)=O | C8H5FN2O3
